US08735387B2
(c) N-(4,6-Dihydroxy-2-methylsulfanyl-pyrimidin-5-yl)-3-methyl-benzamide
28.6 g of N-(4,6-dihydroxy-2-mercapto-pyrimidin-5-yl)-3-methyl-benzamide in 280 ml of water were cooled to 0° C. With cooling, 10.3 g of sodium hydroxide were added, and the mixture was stirred at 0° C. for 30 min. Then a solution of 6.4 ml of iodomethane in 108 ml of N-methylpyrrolidin-2-one was added. After completion of the reaction (6 h), the mixture was acidified with 6 N hydrochloric acid, and the precipitate filtered off and dried. 21.3 g of the title compound were obtained.

reactant | N-(4,6-dihydroxy-2-mercapto-pyrimidin-5-yl)-3-methyl-benzamide | 28.6 g | OC1=NC(=NC(=C1NC(C1=CC(=CC=C1)C)=O)O)S | C12H11N3O3S
reactant | sodium hydroxide | 10.3 g | [OH-].[Na+]
reactant | iodomethane | 6.4 ml | IC | CH3I
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 280 ml | O | H2O
solvent | N-methylpyrrolidin-2-one | 108 ml | CN1C(CCC1)=O | C5H9NO
product | N-(4,6-Dihydroxy-2-methylsulfanyl-pyrimidin-5-yl)-3-methyl-benzamide | 21.3 g | OC1=NC(=NC(=C1NC(C1=CC(=CC=C1)C)=O)O)SC | C13H13N3O3S
